US04496558
A stirred solution of 1.2 g. of 6-chloro-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine in 30 ml. of toluene was treated at 50° by dropwise addition with a solution of 0.7 g. cyanogen bromide in 25 ml. of toluene. Following the addition, the mixture was stirred and heated at 50° for one hour. A stream of nitrogen was passed over the surface of the solution during the reaction. The mixture was cooled, filtered and the filtrate concentrated in vacuo to yield 6-chloro-3-cyano-2,3,4,5-tetrahydro-1H-3-benzazepine melting at 81°-82° from hexane-ether solution.

reactant | 6-chloro-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | ClC1=CC=CC=2CCN(CCC21)C | C11H14ClN
reactant | cyanogen bromide | N#CBr | CBrN
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 6-chloro-3-cyano-2,3,4,5-tetrahydro-1H-3-benzazepine | ClC1=CC=CC=2CCN(CCC21)C#N | C11H11ClN2
